US06677352B1
To a 0° C. suspension of ethyl 7-anilino-3-fluoro-5-oxo-8-phenyl-5,8-dihydro-1,8-naphthyridine-2-carboxylate (100.0 mg, 0.25 mmol) in THF (2.5 mL) was added LAH (0.750 mmol, 1M in THF) dropwise over 10 min. After 5 min. the reaction was slowly quenched with EtOAc (10 mL), was left to stir for 15 min and was concentrated in vacuo. The resiude was taken up in CH2Cl2 (10 mL) and 1N HCl (5 mL) and was left to stir for 30 min. The layers were separated and the aqueous layer was extracted with CH2Cl2. The combined organic extracts were washed with brine, dried over MgSO4, and concentrated in vacuo. Trituation with Et2O provided 2-anilino-6-fluoro-7-(hydroxymethyl)-1-phenyl-1,8-naphthyridin-4(1H)-one (55.2 mg, 61%) as a tan solid: LCMS RT: 2.01 min, MH+: 362.3.

reactant | ethyl 7-anilino-3-fluoro-5-oxo-8-phenyl-5,8-dihydro-1,8-naphthyridine-2-carboxylate | 0.25 mmol, 100.0 mg | N(C1=CC=CC=C1)C1=CC(C=2C=C(C(=NC2N1C1=CC=CC=C1)C(=O)OCC)F)=O | C23H18FN3O3
reactant | LAH | 0.750 mmol, 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-anilino-6-fluoro-7-(hydroxymethyl)-1-phenyl-1,8-naphthyridin-4(1H)-one | 55.2 mg, 61% | N(C1=CC=CC=C1)C=1N(C2=NC(=C(C=C2C(C1)=O)F)CO)C1=CC=CC=C1 | C21H16FN3O2
